### PR TITLE
feat(riscv): optimize divisions by powers of 2

### PR DESCRIPTION
**Pull request by regehr**
LLVM backends have sophisticated lowerings to avoid expensive division instructions.

this PR gives us the trivial lowering from udiv by power-of-2 to a shift, and then also the less trivial lowering for sdiv by power-of-2. there are also some specific rewrites for the `exact` variants.

everything is a pretty straightforward port from the LLVM backend. our output matches LLVM's for all cases I looked at.

I also ported a nice little optimization that removes one instruction from the sdiv-by-2 case.

these fire multiple times in fastntt!

I've sorried out several slow proofs, division is hard for bitvector solvers

### CODE REVIEW

File: Veir/Passes/RISCVCombines/Proofs.lean [hunk 1]
```diff
@@ -16,4 +21,30 @@ theorem right_identity_zero_add:
...
+  but the fact it relies on is a generic, division-agnostic property of `ashr`
+  followed by `lshr`): an arithmetic right shift by any amount `shamt` -- even an
+  out-of-range one, where `ashr` itself is poison and the refinement holds
+  trivially -- never changes the top bit, so a subsequent logical shift by 63
+  (which keeps only that bit) gives the same result as skipping the `ashr`
+  entirely. Mirrors LLVM's generic `DAGCombiner::visitSRL` rule
+  `fold (srl (sra X, Y), 31) -> (srl X, 31)`.
+  https://github.com/llvm/llvm-project/blob/2e87cf8c2b8ec6453ccfa7e448d5b33f1d71a2ca/llvm/lib/CodeGen/SelectionDAG/DAGCombiner.cpp#L11628-L11633
+-/
+theorem srl_sra_signbit_refinement {x shamt : LLVM.Int 64} :
```
Comment (luisacicolini) [inline Veir/Passes/RISCVCombines/Proofs.lean]: is there a reason why we don't state this as equality at the `Reg` type?

**Review by tobiasgrosser — APPROVED** [review]
Amazing. This goes in the right direction. I let @luisacicolini do the final review.

File: Veir/Passes/InstructionSelection/Proofs.lean [hunk 2]
```diff
@@ -252,6 +252,73 @@ theorem udiv_refinement {x y : LLVM.Int 64} :
...
+set_option warn.sorry false in
+/--
+  `udiv x, 2^k` -> `riscv.srli x, k` (`udivPow2`). Mirrors `DAGCombiner::visitUDIVLike`'s
+  `fold (udiv x, (1 << c)) -> x >>u c` (via `BuildLogBase2`).
+  https://github.com/llvm/llvm-project/blob/2e87cf8c2b8ec6453ccfa7e448d5b33f1d71a2ca/llvm/lib/CodeGen/SelectionDAG/DAGCombiner.cpp#L5430-L5440
+-/
+theorem udivPow2_refinement {x : LLVM.Int 64} (k : BitVec 6) :
+    (Data.LLVM.Int.udiv x (LLVM.Int.val ((1#64) <<< k))) ⊒
+      (RISCV.Reg.toInt (Data.RISCV.srli k (LLVM.Int.toReg x)) 64) := by
+  sorry -- bv_decide needs a non-default timeout (120s) to close this goal
```
Comment (tobiasgrosser) [inline Veir/Passes/InstructionSelection/Proofs.lean:331]: For this we need:

```lean4
theorem udiv_one_shl {w₁ w₂ : Nat} (x : BitVec w₁) (k : BitVec w₂) :
    x / 1#w₁ <<< k = x >>> k := by
  rw [BitVec.shiftLeft_eq', BitVec.ushiftRight_eq', ← BitVec.twoPow_eq]
  rcases Nat.lt_or_ge k.toNat w₁ with hk | hk
  · exact BitVec.udiv_twoPow_eq_of_lt hk
  · have htw : BitVec.twoPow w₁ k.toNat = 0#w₁ := BitVec.eq_of_toNat_eq (by
      rw [BitVec.toNat_twoPow_of_le hk, BitVec.toNat_ofNat, Nat.zero_mod])
    rw [htw, BitVec.udiv_zero, BitVec.ushiftRight_eq_zero hk]
```

Which makes sense.

Comment (tobiasgrosser) [reply Veir/Passes/InstructionSelection/Proofs.lean:331]: I suggest to merge this PR when @luisacicolini is happy then and fix the sorries one-by-one.

**Review by luisacicolini — APPROVED** [review]
thank you! lgtm :)
